US07071184B2
m. Quinoline-6-carboxylic acid {(S)-3-methyl-1-[(4S,7R)-7-methyl-3-oxo-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-butyl}-amide
Sulfur trioxide-pyridine complex (11 mg, 0.7 mmol) was added to a solution of quinoline-6-carboxylic acid {(S)-3-methyl-1-[(4S,7R)-7-methyl-3-hydroxy-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-butyl}-amide (130 mg, 0.235 mmol) in DMSO (2.0 ml) and triethylamine (0.2 ml, 1.4 mmol) was stirred at RT for 1 h. The reaction was incomplete; therefore, additional triethyl amine (0.2 ml, 1.4 mmol) and sulfur trioxide-pyridine complex (11 mg, 0.7 mmol) was added and the reaction was stirred an additional hour. The reaction mixture was diluted with water, then was extracted with EtOAc. Then, the organic layer was was extracted with brine. The combined organics were dried with magnesium sulfate, filtered, concentrated in vacuo, and purified by column chromatography (3% MeOH/CH2Cl2) gave the title compound (100 mg, 77%): 1H NMR:9.0 (sm 1H), 8.70 (s, 1H), 7.90–8.30 (m, 6H), 7.50–7.55 (m, 2H), 7.10 (d, 1H), 7.0 (d, 1H), 5.10–5.15 (m, 1H), 4.70–4.80 (m,2H), 4.35–4.40 (m, 1H), 3.85 (d, 1H), 2.0–2.25 (m, 3H), 1.70–1.80 (m, 2H), 1.60–1.70 (m, 2H), 0.90–1.10 (m, 9H); Electrospray mass spec: M+H+=552.4.

reactant | quinoline-6-carboxylic acid {(S)-3-methyl-1-[(4S,7R)-7-methyl-3-hydroxy-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-butyl}-amide | 0.235 mmol, 130 mg | CC(C[C@@H](C(N[C@@H]1C(CN([C@@H](CC1)C)S(=O)(=O)C1=NC=CC=C1)O)=O)NC(=O)C=1C=C2C=CC=NC2=CC1)C | C28H35N5O5S
reactant | triethylamine | 1.4 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | triethyl amine | 1.4 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | DMSO | 2.0 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | Quinoline-6-carboxylic acid {(S)-3-methyl-1-[(4S,7R)-7-methyl-3-oxo-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-butyl}-amide | 100 mg, 77% | CC(C[C@@H](C(N[C@@H]1C(CN([C@@H](CC1)C)S(=O)(=O)C1=NC=CC=C1)=O)=O)NC(=O)C=1C=C2C=CC=NC2=CC1)C | C28H33N5O5S
